US07476670B2
Stage 1: 2-chloro-6-(5-chloro-2,3-dihydro-1H-indol-1-yl)-9H-purine
The same procedure as in stage 1 of Example 1 is carried out, starting from 756 mg of 2,6-dichloro-purine, 12 ml of butanol and 737 mg of 5-chloro-2,3-dihydro-1H-indole.

reactant | 2,6-dichloro-purine | 756 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 5-chloro-2,3-dihydro-1H-indole | 737 mg | ClC=1C=C2CCNC2=CC1 | C8H8ClN
solvent | butanol | 12 ml | C(CCC)O | C4H10O
product | 2-chloro-6-(5-chloro-2,3-dihydro-1H-indol-1-yl)-9H-purine | ClC1=NC(=C2N=CNC2=N1)N1CCC2=CC(=CC=C12)Cl | C13H9Cl2N5
